US06441017B1
Step D: 6-tert-Butyldiphenylsilyloxy-1-indanylamine
To a solution of 6-tert-butyldiphenylsilyloxy-1-indanyl azide, as described above in Step C, (6.10 g, 14.7 mmol) in TBF (150 mL) at 0° C. was added LiAlH4 (1.0 M in THF, 17.7 mL, 17.7 mmol), dropwise. The reaction mixture was stirred at 0° C. for 1 hour then EtOAc (0.7 mL) was added, followed by H2O (0.7 mL), then 15% aqueous NaOH (0.7 mL), then H2O (2.1 mL). The quenched mixture was stirred at ambient temperature for 18 hours, then filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with CHCl3—1% MeOH—0.1% NH4OH, to yield the titled product.

reactant | 6-tert-butyldiphenylsilyloxy-1-indanyl azide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2CCC(C2=C1)N=[N+]=[N-] | C25H27N3OSi
reactant | LiAlH4 | 17.7 mmol, 1.0 M, 17.7 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | EtOAc | 0.7 mL | CCOC(=O)C | C4H8O2
reactant | NaOH | 0.7 mL | [OH-].[Na+]
solvent | H2O | 2.1 mL | O | H2O
solvent | H2O | 0.7 mL | O | H2O
product | 6-tert-Butyldiphenylsilyloxy-1-indanylamine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2CCC(C2=C1)N | C25H29NOSi
